US07345178B2
A suspension of 2-(3-nitrophenyl)oxazolo[4,5-c]pyridine (1.50 g, 6.2 mmol), iron powder (1.867 g, 31.8 mmol) and NH4Cl (2.86 g, 53.5 mmol) in CH3OH/H2O (4: 1, 311.2 mL) was refluxed for 6 h. The mixture was filtered and the filtrate was evaporated in vacuo. The residue was purified by chromatography on silica gel (eluted with petroleum ether: EtOAc : Et3N=160:40:1) to afford 3-(oxazolo[4,5-c]pyridin-2-yl)benzenamine as a white solid (1.107 g, yield: 85%). 1H NMR (400 MHz, DMSO-d6) δ: 5.54 (2H, s), 6.82 (1H, d, J=8.0 Hz), 7.24 (1H, t, J=8.0 Hz), 7.35 (1H, d, J=8.0 Hz), 7.44 (1H, s), 7.86 (1H, d, J=5.6 Hz), 8.56 (1H, d, J=5.6 Hz), 9.07 (1H, s); MS (ESI) calcd. for C12H9N3O (m/z): 211, found: 212 [M+1]+.

reactant | 2-(3-nitrophenyl)oxazolo[4,5-c]pyridine | 6.2 mmol, 1.50 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1OC2=C(C=NC=C2)N1 | C12H7N3O3
reactant | NH4Cl | 53.5 mmol, 2.86 g | [NH4+].[Cl-]
solvent | CH3OH H2O | 311.2 mL | CO.O
catalyst | iron | 31.8 mmol, 1.867 g | [Fe] | Fe
product | 3-(oxazolo[4,5-c]pyridin-2-yl)benzenamine | 1.107 g, yield: 85% | O1C(=NC=2C=NC=CC21)C=2C=C(C=CC2)N | C12H9N3O
